US04277621
The procedure described in Example (1b) is repeated, except that 283.4 g (0.875 mol) of 3-n-butyl-3-ethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene, 60.8 g (0.87 mol) of hydroxylamine hydrochloride, 50 ml of concentrated hydrochloric acid and 250 ml of water are used. Working up yields 310 g (0.87 mol) of 2-n-butyl-2-ethyl-11-phenyl-11-amino-undeca-4,8-dienal oxime; yield 99.5% of theory.

reactant | 3-n-butyl-3-ethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene | 0.875 mol, 283.4 g | C(CCC)C1(C=NC(CC=CCCC=CC1)C1=CC=CC=C1)CC | C23H33N
reactant | hydroxylamine hydrochloride | 0.87 mol, 60.8 g | Cl.NO
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 2-n-butyl-2-ethyl-11-phenyl-11-amino-undeca-4,8-dienal oxime | 0.87 mol, 310 g, yield 99.5% | C(CCC)C(C=NO)(CC=CCCC=CCC(N)C1=CC=CC=C1)CC | C23H36N2O
